.subckt PM_OR5x1_ASAP7_75t_R%10 vss 2 3 1
c1 1 vss 0.000727782f $X=0.108 $Y=0.2025
r1 2 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.0906 $Y=0.2025 $X2=0.108 $Y2=0.2025
r2 3 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.1253 $Y=0.2025 $X2=0.108 $Y2=0.2025
.ends

.subckt PM_OR5x1_ASAP7_75t_R%12 vss 2 3 1
c1 1 vss 0.000704966f $X=0.216 $Y=0.2025
r1 2 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.1986 $Y=0.2025 $X2=0.216 $Y2=0.2025
r2 3 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.2333 $Y=0.2025 $X2=0.216 $Y2=0.2025
.ends

.subckt PM_OR5x1_ASAP7_75t_R%13 vss 2 3 1
c1 1 vss 0.00075765f $X=0.27 $Y=0.2025
r1 2 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.2873 $Y=0.2025 $X2=0.27 $Y2=0.2025
r2 3 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.2526 $Y=0.2025 $X2=0.27 $Y2=0.2025
.ends

.subckt PM_OR5x1_ASAP7_75t_R%A vss 17 5 11 3 4 1
c1 1 vss 0.00251771f $X=0.0715 $Y=0.136
c2 3 vss 0.0416056f $X=0.081 $Y=0.0245
c3 4 vss 0.00972584f $X=0.081 $Y=0.0985
r1 17 4 8.74462 $w=1.3e-08 $l=3.75e-08 $layer=M1 $thickness=3.6e-08 $X=0.081
+ $Y=0.135 $X2=0.081 $Y2=0.0985
r2 13 14 3.67195 $w=1.8e-08 $l=9.5e-09 $layer=LIG $thickness=4.8e-08 $X=0.081
+ $Y=0.136 $X2=0.0905 $Y2=0.136
r3 17 13 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.081 $Y=0.135 $X2=0.081 $Y2=0.136
r4 1 13 3.67195 $w=1.8e-08 $l=9.5e-09 $layer=LIG $thickness=4.8e-08 $X=0.0715
+ $Y=0.136 $X2=0.081 $Y2=0.136
r5 11 10 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.2025 $X2=0.081 $Y2=0.1595
r6 9 10 2.89117 $w=2.1e-08 $l=8.5e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.151 $X2=0.081 $Y2=0.1595
r7 8 9 5.25513 $w=2.04e-08 $l=1.5e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.136 $X2=0.081 $Y2=0.151
r8 8 14 3.40757 $w=1.98947e-08 $l=9.5e-09 $layer=Gate_1 $thickness=5.55789e-08
+ $X=0.081 $Y=0.136 $X2=0.0905 $Y2=0.136
r9 8 13 6.69299 $w=1.9e-08 $layer=LIG $thickness=5.2e-08 $X=0.081 $Y=0.136
+ $X2=0.081 $Y2=0.136
r10 7 8 5.59527 $w=2.04375e-08 $l=1.6e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.12 $X2=0.081 $Y2=0.136
r11 6 7 7.82318 $w=2.1e-08 $l=2.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.097 $X2=0.081 $Y2=0.12
r12 5 6 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.054 $X2=0.081 $Y2=0.097
r13 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.054 $X2=0.081 $Y2=0.0245
.ends

.subckt PM_OR5x1_ASAP7_75t_R%C vss 13 5 9 1 4 3
c1 1 vss 0.00154932f $X=0.189 $Y=0.1355
c2 3 vss 0.0385688f $X=0.189 $Y=0.0245
c3 4 vss 0.0121055f $X=0.189 $Y=0.0985
r1 13 4 8.74462 $w=1.3e-08 $l=3.75e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.135 $X2=0.189 $Y2=0.0985
r2 1 7 6.8952 $w=1.94872e-08 $layer=LIG $thickness=5.18974e-08 $X=0.189
+ $Y=0.1355 $X2=0.189 $Y2=0.1355
r3 13 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.189 $Y=0.135 $X2=0.189 $Y2=0.1355
r4 9 8 16.6668 $w=2.1e-08 $l=4.9e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.2025 $X2=0.189 $Y2=0.1535
r5 7 8 6.28405 $w=2.04722e-08 $l=1.8e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.1355 $X2=0.189 $Y2=0.1535
r6 6 7 11.046 $w=2.07031e-08 $l=3.2e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.1035 $X2=0.189 $Y2=0.1355
r7 5 6 16.8368 $w=2.1e-08 $l=4.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.054 $X2=0.189 $Y2=0.1035
r8 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.054 $X2=0.189 $Y2=0.0245
.ends

.subckt PM_OR5x1_ASAP7_75t_R%D vss 15 5 9 1 4 3
c1 1 vss 0.00119765f $X=0.243 $Y=0.1355
c2 3 vss 0.0387361f $X=0.243 $Y=0.0245
c3 4 vss 0.0125891f $X=0.243 $Y=0.0935
r1 15 14 4.5472 $w=1.3e-08 $l=1.95e-08 $layer=M1 $thickness=3.6e-08 $X=0.243
+ $Y=0.135 $X2=0.243 $Y2=0.1165
r2 4 14 5.36336 $w=1.3e-08 $l=2.3e-08 $layer=M1 $thickness=3.6e-08 $X=0.243
+ $Y=0.0935 $X2=0.243 $Y2=0.1165
r3 1 7 6.8952 $w=1.94872e-08 $layer=LIG $thickness=5.18974e-08 $X=0.243
+ $Y=0.1355 $X2=0.243 $Y2=0.1355
r4 15 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.243 $Y=0.135 $X2=0.243 $Y2=0.1355
r5 9 8 16.6668 $w=2.1e-08 $l=4.9e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.2025 $X2=0.243 $Y2=0.1535
r6 7 8 6.28405 $w=2.04722e-08 $l=1.8e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.1355 $X2=0.243 $Y2=0.1535
r7 6 7 11.046 $w=2.07031e-08 $l=3.2e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.1035 $X2=0.243 $Y2=0.1355
r8 5 6 16.8368 $w=2.1e-08 $l=4.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.054 $X2=0.243 $Y2=0.1035
r9 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.054 $X2=0.243 $Y2=0.0245
.ends

.subckt PM_OR5x1_ASAP7_75t_R%E vss 13 5 9 3 4 1
c1 1 vss 0.00782579f $X=0.297 $Y=0.1355
c2 3 vss 0.0988284f $X=0.297 $Y=0.0245
c3 4 vss 0.00967304f $X=0.297 $Y=0.1165
r1 13 4 4.5472 $w=1.3e-08 $l=1.95e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.135 $X2=0.297 $Y2=0.1165
r2 1 7 6.8952 $w=1.94872e-08 $layer=LIG $thickness=5.18974e-08 $X=0.297
+ $Y=0.1355 $X2=0.297 $Y2=0.1355
r3 13 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.297 $Y=0.135 $X2=0.297 $Y2=0.1355
r4 9 8 16.6668 $w=2.1e-08 $l=4.9e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.2025 $X2=0.297 $Y2=0.1535
r5 7 8 6.28405 $w=2.04722e-08 $l=1.8e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.1355 $X2=0.297 $Y2=0.1535
r6 6 7 11.046 $w=2.07031e-08 $l=3.2e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.297 $Y=0.1035 $X2=0.297 $Y2=0.1355
r7 5 6 16.8368 $w=2.1e-08 $l=4.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.054 $X2=0.297 $Y2=0.1035
r8 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.297
+ $Y=0.054 $X2=0.297 $Y2=0.0245
.ends

.subckt PM_OR5x1_ASAP7_75t_R%Y vss 20 15 27 8 11 13 7
c1 1 vss 0.00819659f $X=0.378 $Y=0.0675
c2 2 vss 0.00868599f $X=0.378 $Y=0.2025
c3 7 vss 0.0382882f $X=0.3635 $Y=0.0675
c4 8 vss 0.0382788f $X=0.3635 $Y=0.2025
c5 9 vss 0.00276256f $X=0.405 $Y=0.036
c6 10 vss 0.00277716f $X=0.405 $Y=0.234
c7 11 vss 0.00444058f $X=0.3645 $Y=0.036
c8 12 vss 0.00618324f $X=0.3645 $Y=0.234
c9 13 vss 0.00534408f $X=0.405 $Y=0.054
r1 8 2 0.154321 $w=8.1e-08 $l=1.25e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.3635 $Y=0.2025 $X2=0.378 $Y2=0.2025
r2 27 8 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.3606 $Y=0.2025 $X2=0.3635 $Y2=0.2025
r3 2 23 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.378 $Y=0.2025 $X2=0.378 $Y2=0.234
r4 23 24 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.378
+ $Y=0.234 $X2=0.3915 $Y2=0.234
r5 12 23 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.3645
+ $Y=0.234 $X2=0.378 $Y2=0.234
r6 10 22 8.72783 $w=1.4982e-08 $l=4.45e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.405 $Y=0.234 $X2=0.405 $Y2=0.1895
r7 10 24 1.49895 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.405 $Y=0.234 $X2=0.3915 $Y2=0.234
r8 21 22 11.1348 $w=1.3e-08 $l=4.78e-08 $layer=M1 $thickness=3.6e-08 $X=0.405
+ $Y=0.1417 $X2=0.405 $Y2=0.1895
r9 20 21 2.97317 $w=1.3e-08 $l=1.27e-08 $layer=M1 $thickness=3.6e-08 $X=0.409
+ $Y=0.129 $X2=0.405 $Y2=0.1417
r10 20 19 7.75356 $w=1.3e-08 $l=3.33e-08 $layer=M1 $thickness=3.6e-08 $X=0.409
+ $Y=0.129 $X2=0.405 $Y2=0.0957
r11 13 19 9.73567 $w=1.3e-08 $l=4.17e-08 $layer=M1 $thickness=3.6e-08 $X=0.405
+ $Y=0.054 $X2=0.405 $Y2=0.0957
r12 9 17 1.49895 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.405 $Y=0.036 $X2=0.3915 $Y2=0.036
r13 9 13 2.5483 $w=1.79e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.405
+ $Y=0.036 $X2=0.405 $Y2=0.054
r14 16 17 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.378
+ $Y=0.036 $X2=0.3915 $Y2=0.036
r15 11 16 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.3645
+ $Y=0.036 $X2=0.378 $Y2=0.036
r16 1 16 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.378 $Y=0.0675 $X2=0.378
+ $Y2=0.036
r17 7 1 0.154321 $w=8.1e-08 $l=1.25e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.3635 $Y=0.0675 $X2=0.378 $Y2=0.0675
r18 15 7 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.3606 $Y=0.0675 $X2=0.3635 $Y2=0.0675
.ends

.subckt PM_OR5x1_ASAP7_75t_R%8 vss 30 36 61 62 65 66 70 75 21 3 4 26 19 16 25
+ 17 5 18 6 23 1 29 15 24 22 28
c1 1 vss 0.0036528f $X=0.351 $Y=0.1355
c2 3 vss 0.00726402f $X=0.054 $Y=0.054
c3 4 vss 0.00653039f $X=0.054 $Y=0.2025
c4 5 vss 0.00747082f $X=0.162 $Y=0.054
c5 6 vss 0.00745545f $X=0.27 $Y=0.054
c6 15 vss 0.0991053f $X=0.351 $Y=0.0245
c7 16 vss 0.0289599f $X=0.056 $Y=0.054
c8 17 vss 0.00424341f $X=0.1475 $Y=0.054
c9 18 vss 0.00446089f $X=0.2555 $Y=0.054
c10 19 vss 0.0382021f $X=0.056 $Y=0.2025
c11 20 vss 0.0028764f $X=0.027 $Y=0.036
c12 21 vss 0.00622954f $X=0.027 $Y=0.234
c13 22 vss 0.00272411f $X=0.297 $Y=0.036
c14 23 vss 0.000493588f $X=0.297 $Y=0.0665
c15 24 vss 0.000768479f $X=0.351 $Y=0.072
c16 25 vss 0.00602495f $X=0.027 $Y=0.0575
c17 26 vss 0.0214962f $X=0.2565 $Y=0.036
c18 27 vss 0.000485184f $X=0.297 $Y=0.054
c19 28 vss 0.00136928f $X=0.324 $Y=0.072
c20 29 vss 0.0015065f $X=0.351 $Y=0.1165
r1 75 74 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.0713 $Y=0.2025 $X2=0.0685 $Y2=0.2025
r2 19 74 0.154321 $w=8.1e-08 $l=1.25e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.056 $Y=0.2025 $X2=0.0685 $Y2=0.2025
r3 4 72 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.054 $Y=0.2025 $X2=0.054 $Y2=0.234
r4 71 72 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.0405
+ $Y=0.234 $X2=0.054 $Y2=0.234
r5 21 68 3.83327 $w=1.5093e-08 $l=2.15e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.234 $X2=0.027 $Y2=0.2125
r6 21 71 1.96775 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.234 $X2=0.0405 $Y2=0.234
r7 70 69 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.0713 $Y=0.054 $X2=0.0685 $Y2=0.054
r8 16 69 0.231482 $w=5.4e-08 $l=1.25e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.056 $Y=0.054 $X2=0.0685 $Y2=0.054
r9 67 68 18.0722 $w=1.3e-08 $l=7.75e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.135 $X2=0.027 $Y2=0.2125
r10 25 67 18.0722 $w=1.3e-08 $l=7.75e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.0575 $X2=0.027 $Y2=0.135
r11 66 64 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.1793 $Y=0.054 $X2=0.1765 $Y2=0.054
r12 5 64 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.162 $Y=0.054 $X2=0.1765 $Y2=0.054
r13 17 5 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.1475 $Y=0.054 $X2=0.162 $Y2=0.054
r14 65 17 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.1446 $Y=0.054 $X2=0.1475 $Y2=0.054
r15 62 60 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.2873 $Y=0.054 $X2=0.2845 $Y2=0.054
r16 6 60 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.27 $Y=0.054 $X2=0.2845 $Y2=0.054
r17 18 6 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.2555 $Y=0.054 $X2=0.27 $Y2=0.054
r18 61 18 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.2526 $Y=0.054 $X2=0.2555 $Y2=0.054
r19 3 57 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.054 $Y=0.054 $X2=0.054 $Y2=0.036
r20 20 56 1.49895 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.036 $X2=0.0405 $Y2=0.036
r21 20 25 3.36447 $w=1.71023e-08 $l=2.15e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.027 $Y=0.036 $X2=0.027 $Y2=0.0575
r22 5 50 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.162 $Y=0.054 $X2=0.162 $Y2=0.036
r23 6 44 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.27 $Y=0.054 $X2=0.27 $Y2=0.036
r24 57 58 2.91487 $w=1.3e-08 $l=1.25e-08 $layer=M1 $thickness=3.6e-08 $X=0.054
+ $Y=0.036 $X2=0.0665 $Y2=0.036
r25 56 57 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.0405
+ $Y=0.036 $X2=0.054 $Y2=0.036
r26 55 58 1.04935 $w=1.3e-08 $l=4.5e-09 $layer=M1 $thickness=3.6e-08 $X=0.071
+ $Y=0.036 $X2=0.0665 $Y2=0.036
r27 54 55 2.3319 $w=1.3e-08 $l=1e-08 $layer=M1 $thickness=3.6e-08 $X=0.081
+ $Y=0.036 $X2=0.071 $Y2=0.036
r28 53 54 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.108
+ $Y=0.036 $X2=0.081 $Y2=0.036
r29 52 53 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.135
+ $Y=0.036 $X2=0.108 $Y2=0.036
r30 50 51 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.162
+ $Y=0.036 $X2=0.1755 $Y2=0.036
r31 49 50 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.1485
+ $Y=0.036 $X2=0.162 $Y2=0.036
r32 49 52 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.1485
+ $Y=0.036 $X2=0.135 $Y2=0.036
r33 48 51 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.036 $X2=0.1755 $Y2=0.036
r34 47 48 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.216
+ $Y=0.036 $X2=0.189 $Y2=0.036
r35 46 47 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.243
+ $Y=0.036 $X2=0.216 $Y2=0.036
r36 44 45 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.27
+ $Y=0.036 $X2=0.2835 $Y2=0.036
r37 26 44 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.2565
+ $Y=0.036 $X2=0.27 $Y2=0.036
r38 26 46 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.2565
+ $Y=0.036 $X2=0.243 $Y2=0.036
r39 22 27 2.5483 $w=1.79e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.036 $X2=0.297 $Y2=0.054
r40 22 45 1.49895 $w=1.63333e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.297 $Y=0.036 $X2=0.2835 $Y2=0.036
r41 23 28 4.55457 $w=1.3814e-08 $l=2.75545e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.297 $Y=0.0665 $X2=0.324 $Y2=0.072
r42 23 27 2.45586 $w=1.44e-08 $l=1.25e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.0665 $X2=0.297 $Y2=0.054
r43 24 42 3.36447 $w=1.71023e-08 $l=2.15e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.351 $Y=0.072 $X2=0.351 $Y2=0.0935
r44 24 28 4.64701 $w=1.46667e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.351 $Y=0.072 $X2=0.324 $Y2=0.072
r45 29 40 4.5472 $w=1.3e-08 $l=1.95e-08 $layer=M1 $thickness=3.6e-08 $X=0.351
+ $Y=0.1165 $X2=0.351 $Y2=0.136
r46 29 42 5.36336 $w=1.3e-08 $l=2.3e-08 $layer=M1 $thickness=3.6e-08 $X=0.351
+ $Y=0.1165 $X2=0.351 $Y2=0.0935
r47 1 33 6.8952 $w=1.94872e-08 $layer=LIG $thickness=5.18974e-08 $X=0.351
+ $Y=0.1355 $X2=0.351 $Y2=0.1355
r48 1 40 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.351 $Y=0.1355 $X2=0.351 $Y2=0.136
r49 36 35 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.351 $Y=0.2025 $X2=0.351 $Y2=0.1595
r50 34 35 2.89117 $w=2.1e-08 $l=8.5e-09 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.351 $Y=0.151 $X2=0.351 $Y2=0.1595
r51 33 34 5.43371 $w=2.03871e-08 $l=1.55e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.351 $Y=0.1355 $X2=0.351 $Y2=0.151
r52 32 33 5.60378 $w=2.04063e-08 $l=1.6e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.351 $Y=0.1195 $X2=0.351 $Y2=0.1355
r53 31 32 3.06124 $w=2.1e-08 $l=9e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.351
+ $Y=0.1105 $X2=0.351 $Y2=0.1195
r54 30 31 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.351 $Y=0.0675 $X2=0.351 $Y2=0.1105
r55 30 15 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.351 $Y=0.0675 $X2=0.351 $Y2=0.0245
r56 4 19 1e-05 $l=2e-09 $X=0.054 $Y=0.2025 $X2=0.056 $Y2=0.2025
r57 3 16 1e-05 $l=2e-09 $X=0.054 $Y=0.054 $X2=0.056 $Y2=0.054
.ends

.subckt PM_OR5x1_ASAP7_75t_R%11 vss 2 3 1
c1 1 vss 0.000690469f $X=0.162 $Y=0.2025
r1 2 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.1446 $Y=0.2025 $X2=0.162 $Y2=0.2025
r2 3 1 0.209877 $w=8.1e-08 $l=1.7e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.1793 $Y=0.2025 $X2=0.162 $Y2=0.2025
.ends

.subckt PM_OR5x1_ASAP7_75t_R%B vss 13 5 9 1 4 3
c1 1 vss 0.00119993f $X=0.135 $Y=0.1355
c2 3 vss 0.0386071f $X=0.135 $Y=0.0245
c3 4 vss 0.0123341f $X=0.135 $Y=0.0985
r1 13 4 8.74462 $w=1.3e-08 $l=3.75e-08 $layer=M1 $thickness=3.6e-08 $X=0.135
+ $Y=0.135 $X2=0.135 $Y2=0.0985
r2 1 7 6.8952 $w=1.94872e-08 $layer=LIG $thickness=5.18974e-08 $X=0.135
+ $Y=0.1355 $X2=0.135 $Y2=0.1355
r3 13 1 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.135 $Y=0.135 $X2=0.135 $Y2=0.1355
r4 9 8 16.6668 $w=2.1e-08 $l=4.9e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.2025 $X2=0.135 $Y2=0.1535
r5 7 8 6.28405 $w=2.04722e-08 $l=1.8e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.1355 $X2=0.135 $Y2=0.1535
r6 6 7 11.046 $w=2.07031e-08 $l=3.2e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.1035 $X2=0.135 $Y2=0.1355
r7 5 6 16.8368 $w=2.1e-08 $l=4.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.054 $X2=0.135 $Y2=0.1035
r8 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.054 $X2=0.135 $Y2=0.0245
.ends


* End of included file OR5x1_ASAP7_75t_R.pex.sp.pex



*
.subckt OR5x1_ASAP7_75t_CUSTOM_4_25_0_7 VSS VDD A B C D E Y
*
* VSS VSS
* VDD VDD
* A A
* B B
* C C
* D D
* E E
* Y Y
*
*

M0 VSS N_M0_g N_M0_s VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.071 $Y=0.027
M1 N_M1_d N_M1_g VSS VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.125 $Y=0.027
M2 VSS N_M2_g N_M2_s VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.179 $Y=0.027
M3 N_M3_d N_M3_g VSS VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.233 $Y=0.027
M4 VSS N_M4_g N_M4_s VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.287 $Y=0.027
M5 N_M5_d N_M5_g VSS VSS nmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.341 $Y=0.027
M6 N_M6_d N_M6_g N_M6_s VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.071 $Y=0.162
M7 N_M7_d N_M7_g N_M7_s VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.125 $Y=0.162
M8 N_M8_d N_M8_g N_M8_s VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.179 $Y=0.162
M9 N_M9_d N_M9_g N_M9_s VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.233 $Y=0.162
M10 VDD N_M10_g N_M10_s VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.287 $Y=0.162
M11 N_M11_d N_M11_g VDD VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.341 $Y=0.162


* .include "OR5x1_ASAP7_75t_R.pex.sp.pxi"

* Start of included file OR5x1_ASAP7_75t_R.pex.sp.pxi
x_PM_OR5x1_ASAP7_75t_R%10 vss N_M6_d N_M7_s N_10_1 PM_OR5x1_ASAP7_75t_R%10
cc_1 N_10_1 N_A_3 0.0169366f $X=0.108 $Y=0.2025
cc_2 N_10_1 N_B_3 0.0169147f $X=0.108 $Y=0.2025
x_PM_OR5x1_ASAP7_75t_R%12 vss N_M8_d N_M9_s N_12_1 PM_OR5x1_ASAP7_75t_R%12
cc_3 N_12_1 N_C_3 0.0168859f $X=0.216 $Y=0.2025
cc_4 N_12_1 N_D_3 0.0168892f $X=0.216 $Y=0.2025
x_PM_OR5x1_ASAP7_75t_R%13 vss N_M10_s N_M9_d N_13_1 PM_OR5x1_ASAP7_75t_R%13
cc_5 N_13_1 N_D_3 0.0169626f $X=0.27 $Y=0.2025
cc_6 N_13_1 N_E_3 0.0169269f $X=0.27 $Y=0.2025
x_PM_OR5x1_ASAP7_75t_R%A vss A N_M0_g N_M6_g N_A_3 N_A_4 N_A_1
+ PM_OR5x1_ASAP7_75t_R%A
x_PM_OR5x1_ASAP7_75t_R%C vss C N_M2_g N_M8_g N_C_1 N_C_4 N_C_3
+ PM_OR5x1_ASAP7_75t_R%C
cc_7 N_C_1 N_B_1 0.00155253f $X=0.189 $Y=0.1355
cc_8 N_C_4 N_B_4 0.00639101f $X=0.189 $Y=0.0985
cc_9 N_C_3 N_B_3 0.00808404f $X=0.189 $Y=0.0245
x_PM_OR5x1_ASAP7_75t_R%D vss D N_M3_g N_M9_g N_D_1 N_D_4 N_D_3
+ PM_OR5x1_ASAP7_75t_R%D
cc_10 N_D_1 N_C_1 0.00157508f $X=0.243 $Y=0.1355
cc_11 N_D_4 N_C_4 0.00637146f $X=0.243 $Y=0.0935
cc_12 N_D_3 N_C_3 0.00811984f $X=0.243 $Y=0.0245
x_PM_OR5x1_ASAP7_75t_R%E vss E N_M4_g N_M10_g N_E_3 N_E_4 N_E_1
+ PM_OR5x1_ASAP7_75t_R%E
cc_13 N_E_3 N_D_1 0.0015515f $X=0.297 $Y=0.0245
cc_14 N_E_4 N_D_4 0.00525883f $X=0.297 $Y=0.1165
cc_15 N_E_3 N_D_3 0.00793641f $X=0.297 $Y=0.0245
x_PM_OR5x1_ASAP7_75t_R%Y vss Y N_M5_d N_M11_d N_Y_8 N_Y_11 N_Y_13 N_Y_7
+ PM_OR5x1_ASAP7_75t_R%Y
cc_16 N_Y_8 N_8_24 0.000247822f $X=0.3635 $Y=0.2025
cc_17 N_Y_8 N_8_22 0.000363944f $X=0.3635 $Y=0.2025
cc_18 N_Y_8 N_8_28 0.000459957f $X=0.3635 $Y=0.2025
cc_19 N_Y_8 N_8_1 0.00244191f $X=0.3635 $Y=0.2025
cc_20 N_Y_11 N_8_24 0.00262444f $X=0.3645 $Y=0.036
cc_21 N_Y_13 N_8_29 0.00443608f $X=0.405 $Y=0.054
cc_22 N_Y_7 N_8_15 0.0148941f $X=0.3635 $Y=0.0675
cc_23 N_Y_8 N_8_15 0.0576778f $X=0.3635 $Y=0.2025
x_PM_OR5x1_ASAP7_75t_R%8 vss N_M5_g N_M11_g N_M3_d N_M4_s N_M1_d N_M2_s N_M0_s
+ N_M6_s N_8_21 N_8_3 N_8_4 N_8_26 N_8_19 N_8_16 N_8_25 N_8_17 N_8_5 N_8_18
+ N_8_6 N_8_23 N_8_1 N_8_29 N_8_15 N_8_24 N_8_22 N_8_28 PM_OR5x1_ASAP7_75t_R%8
cc_24 N_8_21 N_A_3 0.000506197f $X=0.027 $Y=0.234
cc_25 N_8_3 N_A_3 0.000709397f $X=0.054 $Y=0.054
cc_26 N_8_4 N_A_1 0.000715961f $X=0.054 $Y=0.2025
cc_27 N_8_26 N_A_4 0.0010316f $X=0.2565 $Y=0.036
cc_28 N_8_4 N_A_3 0.00172799f $X=0.054 $Y=0.2025
cc_29 N_8_19 N_A_1 0.00200286f $X=0.056 $Y=0.2025
cc_30 N_8_16 N_A_3 0.0107432f $X=0.056 $Y=0.054
cc_31 N_8_25 N_A_4 0.0078661f $X=0.027 $Y=0.0575
cc_32 N_8_19 N_A_3 0.0498859f $X=0.056 $Y=0.2025
cc_33 N_8_17 N_B_1 0.000351442f $X=0.1475 $Y=0.054
cc_34 N_8_4 N_B_3 0.000424817f $X=0.054 $Y=0.2025
cc_35 N_8_5 N_B_3 0.000643244f $X=0.162 $Y=0.054
cc_36 N_8_26 N_B_4 0.00113242f $X=0.2565 $Y=0.036
cc_37 N_8_4 N_B_4 0.00220254f $X=0.054 $Y=0.2025
cc_38 N_8_17 N_B_3 0.0261517f $X=0.1475 $Y=0.054
cc_39 N_8_5 N_C_3 0.000445865f $X=0.162 $Y=0.054
cc_40 N_8_26 N_C_4 0.00113172f $X=0.2565 $Y=0.036
cc_41 N_8_5 N_C_4 0.00180287f $X=0.162 $Y=0.054
cc_42 N_8_17 N_C_3 0.0262851f $X=0.1475 $Y=0.054
cc_43 N_8_18 N_D_1 0.000424777f $X=0.2555 $Y=0.054
cc_44 N_8_6 N_D_3 0.000643244f $X=0.27 $Y=0.054
cc_45 N_8_26 N_D_4 0.00102685f $X=0.2565 $Y=0.036
cc_46 N_8_23 N_D_4 0.00247757f $X=0.297 $Y=0.0665
cc_47 N_8_18 N_D_3 0.0258649f $X=0.2555 $Y=0.054
cc_48 N_8_6 N_E_3 0.000445865f $X=0.27 $Y=0.054
cc_49 N_8_23 N_E_3 0.000542498f $X=0.297 $Y=0.0665
cc_50 N_8_1 N_E_3 0.000891742f $X=0.351 $Y=0.1355
cc_51 N_8_1 N_E_1 0.00126475f $X=0.351 $Y=0.1355
cc_52 N_8_29 N_E_4 0.00348944f $X=0.351 $Y=0.1165
cc_53 N_8_18 N_E_3 0.0104712f $X=0.2555 $Y=0.054
cc_54 N_8_15 N_E_3 0.0182263f $X=0.351 $Y=0.0245
x_PM_OR5x1_ASAP7_75t_R%11 vss N_M7_d N_M8_s N_11_1 PM_OR5x1_ASAP7_75t_R%11
cc_55 N_11_1 N_B_3 0.0168906f $X=0.162 $Y=0.2025
cc_56 N_11_1 N_C_3 0.016899f $X=0.162 $Y=0.2025
x_PM_OR5x1_ASAP7_75t_R%B vss B N_M1_g N_M7_g N_B_1 N_B_4 N_B_3
+ PM_OR5x1_ASAP7_75t_R%B
cc_57 N_B_1 N_A_3 0.00144646f $X=0.135 $Y=0.1355
cc_58 N_B_4 N_A_4 0.0053531f $X=0.135 $Y=0.0985
cc_59 N_B_3 N_A_3 0.00799524f $X=0.135 $Y=0.0245


* End of included file OR5x1_ASAP7_75t_R.pex.sp.pxi
.ends
